US05021478
2-Hydroxy-4-[3-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy) -2-hydroxypropoxy]benzophenone
A mixture of 5.0 g (18.5 mmol) of 2-hydroxy-4-(2,3-epoxypropoxy)benzophenone and 15.0 g (58.7 mmol) of 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine is heated to 80° and then treated with 0.5 g of phosphorous acid (99%). The reaction mixture is heated at 80°-90° C. for 6 hours, then cooled and dissolved in ethyl acetate (200 ml). The organic solution is washed with saturated sodium bicarbonate solution (100 ml), dried over magnesium sulfate, and evaporated to a yellow oil. Purification by flash chromatography on silica gel to obtain the least polar material formed in the reaction mixture affords approximately 200 mg of the title compound, a yellow glass.

reactant | 2-hydroxy-4-(2,3-epoxypropoxy)benzophenone | 18.5 mmol, 5.0 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCC1CO1 | C16H14O4
reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 58.7 mmol, 15.0 g | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | phosphorous acid | 0.5 g | P(O)(O)O | H3O3P
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-4-[3-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy) -2-hydroxypropoxy]benzophenone | approximately 200 mg | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCC(COC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)O | C31H43NO6
